US07645776B2
2-Oxo-1,4-dihydro-2H-benzo[d][1,3]oxazine-6-carbonitrile
20 mmol of 4-Amino-3-hydroxymethyl-benzonitrile were dissolved in THF. 1.2 eq. of DIPEA were added and the reaction cooled to 0° C. 3.5 eq of ethyl chloroformate were added dropwise and the reaction warmed to rt and stirred for another 15 min. The crude material was extracted form etyhlacetate and sat. NaHCO3. After separation, and drying of the organic layer the solvent was evaporated and the crude taken up in toluene. 2.5 ml of DBU were added and the reaction mixture refluxed for 4 h. The organic layer was extracted with water and the organic layer separated and reduced resulting in a yellow oil. Crude material was not further characterized.

reactant | 4-Amino-3-hydroxymethyl-benzonitrile | 20 mmol | NC1=C(C=C(C#N)C=C1)CO | C8H8N2O
reactant | DIPEA | 1.2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl chloroformate | 3.5 eq | ClC(=O)OCC | C3H5ClO2
solvent | THF | C1CCOC1 | C4H8O
product | 2-Oxo-1,4-dihydro-2H-benzo[d][1,3]oxazine-6-carbonitrile | O=C1OCC2=C(N1)C=CC(=C2)C#N | C9H6N2O2
